// Generated for: spectre
// Generated on: May  9 15:39:01 2022
// Design library name: Project_Lib1_sim
// Design cell name: binary_counter_sim
// Design view name: schematic
simulator lang=spectre
global 0
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/l130e-rf-v171-control.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_LL12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_BPW_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_BPW_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_BJT_V141.lib.scs" section=typ_BIP
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_NVT33_v031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_NVT12_V041.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_20f_MIMCAP_V011.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_15f_MIMCAP_V021.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_MIMCAP_V121.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/mm130e_mom_v031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_RES_V152.lib.scs" section=res_typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_SP12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_DIODE_V151.mdl.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_cr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwcr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20k_rfvil_V031.lib.scs" section=typ

// Library name: Project_Lib1
// Cell name: dff
// View name: schematic
subckt dff CLK D GND Q VDD nQ nRST
    NM19 (net70 CLK net67 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM18 (net67 net11 GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM22 (net65 net30 GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM24 (net71 nQ GND GND) n_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM23 (net66 CLK net65 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM28 (net68 nRST GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM21 (net83 nRST net66 GND) n_12_hsl130e w=480.0n l=120.0n \
        as=1.632e-13 ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM15 (net30 net11 net69 GND) n_12_hsl130e w=320.0n l=120.0n \
        as=1.088e-13 ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM14 (net69 net83 GND GND) n_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM20 (net79 net83 net70 GND) n_12_hsl130e w=480.0n l=120.0n \
        as=1.632e-13 ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM25 (Q net83 net71 GND) n_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM27 (net73 net79 net68 GND) n_12_hsl130e w=480.0n l=120.0n \
        as=1.632e-13 ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM26 (nQ Q net73 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM2 (net11 nRST net72 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM1 (net72 D net74 GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    NM0 (net74 net79 GND GND) n_12_hsl130e w=480.0n l=120.0n as=1.632e-13 \
        ad=1.632e-13 ps=1.64u pd=1.64u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM21 (net83 net30 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM20 (net83 CLK VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM10 (net30 net11 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM9 (net30 net83 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM18 (net79 net83 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM26 (nQ nRST VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM25 (nQ net79 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM2 (net11 net79 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM1 (net11 D VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM0 (net11 nRST VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM19 (net83 nRST VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM17 (net79 CLK VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM16 (net79 net11 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM23 (Q nQ VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM22 (Q net83 VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM24 (nQ Q VDD VDD) p_12_hsl130e w=320.0n l=120.0n as=1.088e-13 \
        ad=1.088e-13 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
ends dff
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: binary_counter
// View name: schematic
subckt binary_counter GND IN Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 VDD nRST
    I13 (net43 net44 GND Q6 VDD net44 nRST) dff
    I12 (net44 net46 GND Q7 VDD net46 nRST) dff
    I11 (net41 net43 GND Q5 VDD net43 nRST) dff
    I10 (net39 net41 GND Q4 VDD net41 nRST) dff
    I9 (net36 net37 GND Q2 VDD net37 nRST) dff
    I8 (net37 net39 GND Q3 VDD net39 nRST) dff
    I1 (net34 net36 GND Q1 VDD net36 nRST) dff
    I0 (IN net34 GND Q0 VDD net34 nRST) dff
ends binary_counter
// End of subcircuit definition.

// Library name: Project_Lib1_sim
// Cell name: binary_counter_sim
// View name: schematic
I0 (0 IN Q0 Q1 Q2 Q3 Q4 Q5 Q6 Q7 net2 nRST) binary_counter
V1 (IN 0) vsource type=pulse val0=0 val1=1.2 period=1n delay=0 rise=10p \
        fall=10p width=100.0p
V0 (nRST 0) vsource type=pulse val0=0 val1=1.2 period=270n delay=20n \
        rise=10p fall=10p width=250n
V2 (net2 0) vsource dc=1.2 type=dc
C16 (Q0 0) capacitor c=1.0f
C15 (Q1 0) capacitor c=1.0f
C14 (Q2 0) capacitor c=1.0f
C13 (Q3 0) capacitor c=1.0f
C12 (Q4 0) capacitor c=1.0f
C11 (Q5 0) capacitor c=1.0f
C10 (Q6 0) capacitor c=1.0f
C0 (Q7 0) capacitor c=1.0f
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=270n errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
